US07612114B2
2-[1-(3-Methoxyphenyl)pyrrolidin-3-yl]phenylamine
Synthesized from 1-bromo-2-nitrobenzene according to an analogous synthetic method to Preparation Example 103, 1-benzyl-3-(2-nitrophenyl)pyrrolidine (1.0 g) was used according to an analogous synthetic method to Preparation Example 104 to provide 3-(2-nitrophenyl)pyrrolidine (184 mg). Synthesized from 3-(2-nitrophenyl)pyrrolidine and 3-bromoanisole according to an analogous synthetic method to Example 116 described below, 1-(3-methoxyphenyl)-3-(2-nitrophenyl)pyrrolidine (141 mg) was used according to an analogous synthetic method to Example 22 to provide the title compound (126 mg).

reactant | 3-(2-nitrophenyl)pyrrolidine | [N+](=O)([O-])C1=C(C=CC=C1)C1CNCC1 | C10H12N2O2
reactant | 3-bromoanisole | BrC=1C=C(C=CC1)OC | C7H7BrO
reactant | 1-(3-methoxyphenyl)-3-(2-nitrophenyl)pyrrolidine | 141 mg | COC=1C=C(C=CC1)N1CC(CC1)C1=C(C=CC=C1)[N+](=O)[O-] | C17H18N2O3
product | 2-[1-(3-Methoxyphenyl)pyrrolidin-3-yl]phenylamine | 126 mg | COC=1C=C(C=CC1)N1CC(CC1)C1=C(C=CC=C1)N | C17H20N2O
